US07282501B2
Step E: 2-[2-(tert-Butoxycarbonylamino-methyl)-4-hydroxy-phenoxy]-2-methyl-propionic acid ethyl ester
A solution of 2-[4-benzyloxy-2-(tert-butoxycarbonylamino-methyl)-phenoxy]-2-methyl-propionic acid ethyl ester (0.38 g, 0.86 mmol) in THF (15 mL) was treated with 5% Pd-on-carbon (47 mg) and shaken under a hydrogen atmosphere (60 psi) at ambient temperature for 18 h. The mixture was filtered through Celite and concentrated. The crude product was purified by radial chromatography (hexanes/EtOAc 2.5/1) to give the title compound (208 mg g, 69%).

reactant | 2-[4-benzyloxy-2-(tert-butoxycarbonylamino-methyl)-phenoxy]-2-methyl-propionic acid ethyl ester | 0.86 mmol, 0.38 g | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)OCC1=CC=CC=C1)CNC(=O)OC(C)(C)C)=O | C25H33NO6
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 2-[2-(tert-Butoxycarbonylamino-methyl)-4-hydroxy-phenoxy]-2-methyl-propionic acid ethyl ester | 208 mg, 69% | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)O)CNC(=O)OC(C)(C)C)=O | C18H27NO6
